US06468979B1
LiAlH4 (247 mg; 6.49 mmol) was added in 20 mg portions over 30 minutes to a solution of ethyl 2-pyrazol-1-ylthiazole-4-carboxylate (1.45 g; 6.49 mmol) in anhydrous THF (20 ml) cooled to 0° C. and under nitrogen. After 30 minutes, 10% NaOH (about 5 ml) and water (about 5 ml) were added to the reaction mixture. The mixture was stirred for 30-45 minutes, filtered through Celite and evaporated, and the residue was taken up in saline solution and ethyl acetate. Drying and evaporation under vacuum gave (2-pyrazol-1 -ylthiazole-4-yl)methanol (1.13 g; 96% yield).

reactant | LiAlH4 | 6.49 mmol, 247 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-pyrazol-1-ylthiazole-4-carboxylate | 6.49 mmol, 1.45 g | N1(N=CC=C1)C=1SC=C(N1)C(=O)OCC | C9H9N3O2S
reactant | NaOH | about 5 ml | [OH-].[Na+]
reactant | water | about 5 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (2-pyrazol-1 -ylthiazole-4-yl)methanol | 1.13 g, 96% yield | N1(N=CC=C1)C=1SC=C(N1)CO | C7H7N3OS
